data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_350206_2,[C:1]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[N:9]1[C:2]([C:6]([H:20])([H:21])[H:22])([H:10])[C:7]1=[O:8]>>[C:1]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])/[N:9]=[C:7]1/[C:2]([C:6]([H:20])([H:21])[H:22])([H:10])[O:8]1,36.98547750000273
MR_601956_1,[C:1]([C:4](/[C:3](=[C:8](\[N:7]([H:13])[H:14])[H:15])[O:9][H:10])=[C:5](/[C:2]([H:19])([H:20])[H:21])[N:6]([H:11])[H:12])([H:16])([H:17])[H:18]>>[C:1]([C:4]1=[C:3]([O:9][H:10])[C:8]([N:7]([H:13])[H:14])([H:15])[C:5]1([C:2]([H:19])([H:20])[H:21])[N:6]([H:11])[H:12])([H:16])([H:17])[H:18],38.70796500000552
MR_353881_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:12])([H:13])[H:17])(/[C:5](=[C:4](/[O:7][H:9])[H:10])[H:11])[O:6][H:8]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:12])([H:13])[H:17])=[C:5]([C:4]([O:6][H:8])([O:7][H:9])[H:10])[H:11],52.85181500000064
MR_179435_1,[C:1]([C:2]([C:4](=[O:6])[H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([O:5][H:7])[H:8]>>[C:1]([C:2]([C:4]([C:3]([H:12])([H:13])[H:14])([O:6][H:7])[H:9])([H:10])[H:11])(=[O:5])[H:8],71.15787250000963
MR_687758_2,[C:1](/[C:2]([N:6]=[C:5]([H:15])[H:16])=[N:7]/[H:11])(/[C:3]([N:4]([H:9])[H:10])=[N:8]\[H:12])([H:13])[H:14]>>[C:1](=[C:2]([N:6]=[C:5]([H:15])[H:16])[N:7](/[C:3]([N:4]([H:9])[H:10])=[N:8]\[H:12])[H:11])([H:13])[H:14],71.37122250000601
MR_341315_1,[C:1](/[C:7](=[C:4](\[N:2](/[C:3]([N:5]([H:10])[H:11])=[N:8]\[H:14])[H:9])[N:6]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C@@:7](/[C:3]([N:5]([H:10])[H:11])=[N:8]\[H:14])(/[C:4](=[N:2]/[H:9])[N:6]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18],63.07190750002192
MR_186947_2,[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:4](=[N:7]/[H:9])[H:10])([O:5][C:2]([H:11])([H:12])[H:13])[O:6][H:8]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([O:6][H:8])[C:4]([O:5][C:2]([H:11])([H:12])[H:13])([H:10])[N:7]1[H:9],64.22964499998812
MR_650497_1,[C:1]([N:4](/[N:6]=[N:8]\[H:10])[H:9])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[C:2]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:4]([H:9])[C:5]1([C:3]([H:16])([H:17])[H:18])[N:7]([C:2]([H:13])([H:14])[H:15])/[N:6]=[N:8]\[H:10],71.7684300000019
MR_542612_1,[C:1](/[C:4]([C:2](=[C:3]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[N:5]([H:11])[H:12])=[N:9]/[O:8][H:10])([H:17])([H:18])[H:19]>>[C:1]([C:4]1=[C:2]([N:5]([H:11])[H:12])[C:3]([N:6]([H:13])[H:14])([N:7]([H:15])[H:16])[N:9]1[O:8][H:10])([H:17])([H:18])[H:19],36.40629499996692
MR_29333_0,[C:1]([C:2]([H:10])([H:11])[H:12])([O:5][C:4]([C:3]([H:13])([H:14])[H:15])=[O:7])([O:6][H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([O:6][H:8])([O:7][C:4]([C:3]([H:13])([H:14])[H:15])=[O:5])[H:9],42.33114999998918
MR_90672_0,[C:1]([C:2]([N:5]([H:8])[H:9])([H:12])[H:13])([N:4]([O:6][C:3]([H:14])([H:15])[H:16])[H:7])([H:10])[H:11]>>[C:1]([N:4]([C:2]([N:5]([H:8])[H:9])([H:12])[H:13])[H:7])([O:6][C:3]([H:14])([H:15])[H:16])([H:10])[H:11],73.12885000002709
MR_114630_0,[C:1](/[C:2](=[N:5]/[H:10])[H:7])([C:3]([H:12])([H:13])[H:14])([N:4]([H:8])[H:9])[O:6][H:11]>>[C:1]1([C:3]([H:12])([H:13])[H:14])([N:4]([H:8])[H:9])[C:2]([N:5]([H:10])[H:11])([H:7])[O:6]1,36.30464000000956
MR_482909_0,[C@@:1]([C:2]([H:15])([H:16])[H:17])(/[C:4]([C:3]([H:18])([H:19])[H:20])=[C:7](\[N:6]([H:12])[H:13])[H:14])([O:8][N:5]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:4](/[C:3]([H:18])([H:19])[H:20])[C@@:7]([N:6]([H:12])[H:13])([O:8][N:5]([H:10])[H:11])[H:14])[H:9],47.80546000000754
MR_531795_2,[C:1]1([O:6][H:9])([O:7][H:10])[C:2]([C:5](=[O:8])[H:13])([H:11])[C:3]1([C:4]([H:14])([H:15])[H:16])[H:12]>>[C:1]([C:2]1([H:11])[C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[C:5]1([O:8][H:9])[H:13])(=[O:6])[O:7][H:10],35.64890250002435
MR_617776_2,[N:1](/[C:2]([N:4]([H:12])[H:13])=[N:7]/[N:3]([H:10])[H:11])(/[C:5](=[N:8]/[H:14])[H:15])[O:6][H:9]>>[N:1]1([O:6][H:9])[C@@:2]([N:4]([H:12])[H:13])(/[C:5](=[N:8]/[H:14])[H:15])[N:7]1[N:3]([H:10])[H:11],68.72819250004454
MR_95171_2,[C:1]12([H:11])[C:2]([H:12])([H:13])[C@:5]([C:3]([H:14])([H:15])[H:16])([C:4]([O:7][H:10])=[O:9])[N:8]1[O:6]2>>[C:1]1([C:4]([O:7][H:10])=[O:9])([H:11])[C:2]([H:12])([H:13])[C:5]([C:3]([H:14])([H:15])[H:16])=[N:8][O:6]1,27.50897249999454
MR_431207_1,[C:1]([N:3]([H:9])[H:10])([N:7]([C:2](=[O:4])/[N:5]=[N:6]/[H:11])[H:12])=[O:8]>>[C:1]([N:3]([H:9])[H:10])([O:4][C:2](/[N:5]=[N:6]/[H:11])=[N:7]/[H:12])=[O:8],54.30573249996812
MR_470958_1,[C:1](=[C:2]([N:4]([H:13])[H:14])/[C:5](=[N:8]\[N:3]([H:11])[H:12])[H:15])([O:6][H:10])[O:7][H:9]>>[C:1]1([O:6][H:10])([O:7][H:9])[C:2]([N:4]([H:13])[H:14])=[C:5]([H:15])[N:8]1[N:3]([H:11])[H:12],61.06767249998143
MR_182816_1,[C:1]([C:2]([C:5]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:6](=[O:9])[H:11])[O:8][H:10]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([O:8][H:10])[C:2]([H:12])([H:13])[C:5]1([C:4]([H:17])([H:18])[H:19])[C:7]([C:6](=[O:9])[H:11])([H:20])[H:21],64.34259500002398
